### PR TITLE
[Merged by Bors] - feat: approximate continuous functions by smooth functions

### PR DESCRIPTION
**Pull request by ADedecker**
This is motivated by #31079, and adapted from [this lemma](https://github.com/leanprover-community/sphere-eversion/blob/master/SphereEversion/ToMathlib/ExistsOfConvex.lean#L213) in the Sphere Eversion project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 1]
```diff
@@ -0,0 +1,151 @@
...
+# Approximation of continuous functions by smooth functions
+
+In this file, we deduce from the existence of smooth partitions of unity that any continuous maps
+from a real σ-compact finite dimensional manifold `M` to a real normed space `F` can be
+approximated uniformly by smooth functions.
+
+More precisely, we strengthen this result in three ways :
+* instead of a single number `ε > 0`, one may prescribe the precision of the approximation using
+  an arbitrary continuous positive function `ε : M → ℝ`. This allows, for example, a control
+  on the asymptotic behaviour of the approximation (e.g, choosing a precision `ε` which vanishing
```
Comment (ADedecker) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
  on the asymptotic behaviour of the approximation (e.g, choosing a precision `ε` which vanishes
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 2]
```diff
@@ -0,0 +1,151 @@
...
+## Implementation notes
+
+With minor work, we could strenghten the statements in the following ways:
+- the precision function `ε : M → ℝ` may be assumed `LowerSemicontinuous` instead of `Continuous`,
+- the condition `support g ⊆ support f`, which translates to `∀ x, f x = 0 → g x = 0`,
+  may be strenghtened to `∀ x, f x = h x → g x = h x` for some arbitrary smooth `h : M → F`.
+
+This file depends on the manifold library, which may be annoying is you only need the normed space
+statements. **Please do not let this refrain you from using them** if they apply naturally to your
+setup : if this is too much of a problem, you should complain on Zulip, so that we get more data
```
Comment (ADedecker) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
statements. **Please do not let this refrain you from using them** if they apply naturally in your
context : if this is too much of a problem, you should complain on Zulip, so that we get more data
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 3]
```diff
@@ -0,0 +1,151 @@
...
+about the need of a non-manifold version of `SmoothPartitionOfUnity`.
```
Comment (ADedecker) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
about the need for a non-manifold version of `SmoothPartitionOfUnity`.
```

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 4]
```diff
@@ -215,6 +215,8 @@ theorem contMDiffWithinAt_univ : ContMDiffWithinAt I I' n f univ x ↔ ContMDiff
 theorem contMDiffOn_univ : ContMDiffOn I I' n f univ ↔ ContMDiff I I' n f := by
   simp only [ContMDiffOn, ContMDiff, contMDiffWithinAt_univ, forall_prop_of_true, mem_univ]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:220]: Should this be marked `simp`? (Same question for the forward direction in `contMDiffOn_univ`, I guess.)

File: Mathlib/Analysis/Calculus/ContDiff/Defs.lean [hunk 5]
```diff
@@ -465,6 +465,8 @@ theorem ContDiffOn.contDiffWithinAt (h : ContDiffOn 𝕜 n f s) (hx : x ∈ s) :
 theorem ContDiffOn.of_le (h : ContDiffOn 𝕜 n f s) (hmn : m ≤ n) : ContDiffOn 𝕜 m f s := fun x hx =>
   (h x hx).of_le hmn
 
+theorem contDiffOn_empty : ContDiffOn 𝕜 m f ∅ := fun _ ↦ False.elim
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Defs.lean]: Same question about simp.

Comment (grunweg) [reply Mathlib/Analysis/Calculus/ContDiff/Defs.lean]: Actually, can you also add the `withinAt` version (here and there)?

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 6]
```diff
@@ -0,0 +1,151 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Anatole Dedecker, Patrick Massot
+-/
+
+import Mathlib.Geometry.Manifold.PartitionOfUnity
+
+/-!
+# Approximation of continuous functions by smooth functions
+
+In this file, we deduce from the existence of smooth partitions of unity that any continuous maps
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
In this file, we deduce from the existence of smooth partitions of unity that any continuous map
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 7]
```diff
@@ -0,0 +1,151 @@
...
+
+More precisely, we strengthen this result in three ways :
+* instead of a single number `ε > 0`, one may prescribe the precision of the approximation using
+  an arbitrary continuous positive function `ε : M → ℝ`. This allows, for example, a control
+  on the asymptotic behaviour of the approximation (e.g, choosing a precision `ε` which vanishes
+  at infinity yields that continuous functions vanishing at infinity can be approximated by
+  smooth functions vanishing at infinity).
+* if the original map `f` already has the desired regularity on some neighborhood of a closed
+  set `M`, one can choose an approximation which stays equal to `f` on `S`. This allows
+  for some extra-control in a setting with iterated approximations.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
  for some additional control in a setting with iterated approximations.
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 8]
```diff
@@ -0,0 +1,151 @@
...
+
+## Main results
+
+* `Continuous.exists_contMDiff_approx_and_eqOn`: approximating a continuous function `f : M → F`
+  by a `C^n` function `g : M → E`, with precision prescribed by a continuous positive `ε : M → ℝ`,
+  while ensuring that `support g ⊆ support f` and that `g` coincides with `f` on some closed set `S`
+  in the neighborhood of which `f` is already `C^n`.
+* `Continuous.exists_msmooth_approx`: a simpler version of the previous result when one does not
+  care about prescribing points with `g x = f x`. One still gets `support g ⊆ support f` for free,
+  so we put in in the conclusion.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
  so we put it in the conclusion.
```
presumably

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 9]
```diff
@@ -0,0 +1,151 @@
...
+## Implementation notes
+
+With minor work, we could strenghten the statements in the following ways:
+- the precision function `ε : M → ℝ` may be assumed `LowerSemicontinuous` instead of `Continuous`,
+- the condition `support g ⊆ support f`, which translates to `∀ x, f x = 0 → g x = 0`,
+  may be strenghtened to `∀ x, f x = h x → g x = h x` for some arbitrary smooth `h : M → F`.
+
+This file depends on the manifold library, which may be annoying is you only need the normed space
+statements. **Please do not let this refrain you from using them** if they apply naturally in your
+context : if this is too much of a problem, you should complain on Zulip, so that we get more data
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
context: if this is too much of a problem, you should complain on Zulip, so that we get more data
```

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I took a first superficial look.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:220]: Making the `univ` lemmas `simp` causes (at least for the `ContDiff` version) some failures below. None of them seem hard to fix, but if you're okay with it I'd prefer not to do it in this PR.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 10]
```diff
@@ -0,0 +1,151 @@
...
+## Main results
+
+* `Continuous.exists_contMDiff_approx_and_eqOn`: approximating a continuous function `f : M → F`
+  by a `C^n` function `g : M → E`, with precision prescribed by a continuous positive `ε : M → ℝ`,
+  while ensuring that `support g ⊆ support f` and that `g` coincides with `f` on some closed set `S`
+  in the neighborhood of which `f` is already `C^n`.
+* `Continuous.exists_msmooth_approx`: a simpler version of the previous result when one does not
+  care about prescribing points with `g x = f x`. One still gets `support g ⊆ support f` for free,
+  so we put it in the conclusion.
+* `Continuous.exists_contDiff_approx_and_eqOn`, `Continuous.exists_msmooth_approx`: specializations
```
Comment (ADedecker) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
* `Continuous.exists_contDiff_approx_and_eqOn`, `Continuous.exists_smooth_approx`: specializations
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 11]
```diff
@@ -0,0 +1,151 @@
...
+variable {f : E → F} {ε : E → ℝ}
+
+theorem Continuous.exists_contDiff_approx_and_eqOn (n : ℕ∞)
+    (f_cont : Continuous f) (ε_cont : Continuous ε) (ε_pos : ∀ x, 0 < ε x)
+    {S U : Set E} (hS : IsClosed S) (hU : U ∈ 𝓝ˢ S) (hfU : ContDiffOn ℝ n f U) :
+    ∃ g : E → F, ContDiff ℝ n g ∧
+      (∀ x, dist (g x) (f x) < ε x) ∧ EqOn g f S ∧ support g ⊆ support f := by
+  rcases f_cont.exists_contMDiff_approx_and_eqOn 𝓘(ℝ, E) n ε_cont ε_pos hS hU hfU.contMDiffOn
+    with ⟨g, g_approx, g_eqOn, g_supp⟩
+  exact ⟨g, g.contMDiff.contDiff, g_approx, g_eqOn, g_supp⟩
```
Comment (mcdoll) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]: Does `rcases` work in term mode? Otherwise could you switch to `obtain`? I think this is preferred now.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 12]
```diff
@@ -0,0 +1,151 @@
...
+
+theorem Continuous.exists_smooth_approx_and_eqOn
+    (f_cont : Continuous f) (ε_cont : Continuous ε) (ε_pos : ∀ x, 0 < ε x)
+    {S U : Set E} (hS : IsClosed S) (hU : U ∈ 𝓝ˢ S) (hfU : ContDiffOn ℝ ∞ f U) :
+    ∃ g : E → F, ContDiff ℝ ∞ g ∧
+      (∀ x, dist (g x) (f x) < ε x) ∧ EqOn g f S ∧ support g ⊆ support f :=
+  f_cont.exists_contDiff_approx_and_eqOn ⊤ ε_cont ε_pos hS hU hfU
```
Comment (mcdoll) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
  f_cont.exists_contDiff_approx_and_eqOn ∞ ε_cont ε_pos hS hU hfU
```
untested

**Review by mcdoll — APPROVED** [review]
LGTM, thanks!
maintainer delegate

**Comment by ADedecker** [comment]
(Please wait a bit before merging, I want to add Patrick as coauthor but I am teaching right now)

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 13]
```diff
@@ -0,0 +1,151 @@
...
+  of the previous results when `M = E` is a normed space.
+
+## Implementation notes
+
+With minor work, we could strenghten the statements in the following ways:
+- the precision function `ε : M → ℝ` may be assumed `LowerSemicontinuous` instead of `Continuous`,
+- the condition `support g ⊆ support f`, which translates to `∀ x, f x = 0 → g x = 0`,
+  may be strenghtened to `∀ x, f x = h x → g x = h x` for some arbitrary smooth `h : M → F`.
+
+This file depends on the manifold library, which may be annoying is you only need the normed space
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
This file depends on the manifold library, which may be annoying if you only need the normed space
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 14]
```diff
@@ -0,0 +1,151 @@
...
+    exact ⟨f, hfU, fun y _ ↦ ⟨dist_f_f y, fun _ ↦ rfl, id⟩⟩
+  · have : ∀ᶠ y in 𝓝 x, y ∉ S ∧ dist (f x) (f y) < ε y := (hS.isOpen_compl.eventually_mem hx).and
+      ((continuous_const.dist f_cont).continuousAt.eventually_lt ε_cont.continuousAt (dist_f_f x))
+    have : ∀ᶠ y in 𝓝 x, (y ∉ S ∧ dist (f x) (f y) < ε y) ∧ (f y = 0 → f x = 0) := by
+      by_cases hx' : f x = 0
+      · simpa [hx'] using this
+      · simpa [hx'] using this.and (f_cont.continuousAt.eventually_ne hx')
+    exact ⟨_, this, (fun _ ↦ f x), contMDiffOn_const, fun y hy ↦ ⟨hy.1.2, by simp [hy.1.1], hy.2⟩⟩
+
+theorem Continuous.exists_msmooth_approx_and_eqOn
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]: I guess you're upstreaming material from SphereEversion. We have removed `smooth` from mathlib (this was only creating duplication, for no gain), and only use the contDiff versions, so no need to add the duplicates in your PR.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean (hunk 12 above)
Comment (ADedecker) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: I tried this, but unfortunately it doesn't work because [ContDiff.«term∞»](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.html#ContDiff.%C2%ABterm%E2%88%9E%C2%BB) is specifically "the top element of `ℕ∞` as an element of `WithTop ℕ∞`", but this lemma expects `n : ℕ∞`.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean (hunk 14 above)
Comment (ADedecker) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: Okay, I'll remove them.

What led me to duplicate is we have both [exists_contMDiffOn_section_forall_mem_convex_of_local](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/PartitionOfUnity.html#exists_contMDiffOn_section_forall_mem_convex_of_local) and [exists_smooth_section_forall_mem_convex_of_local](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/PartitionOfUnity.html#exists_smooth_section_forall_mem_convex_of_local). Should the latter be removed/deprecated?

Comment (sgouezel) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: Yes, I'll remove them in another PR.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean (hunk 11 above)
Comment (ADedecker) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: I'm not sure I understand, `obtain` also doesn't work in term mode right? In general I don't think we have a rule about this, the reason I write `rcases` is that it matches my flow of figuring out the proof better, but I can switch to obtain.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean (hunk 14 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: I'll be happy to review that PR.

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 15]
```diff
@@ -0,0 +1,137 @@
...
+    exact ⟨f, hfU, fun y _ ↦ ⟨dist_f_f y, fun _ ↦ rfl, id⟩⟩
+  · have : ∀ᶠ y in 𝓝 x, y ∉ S ∧ dist (f x) (f y) < ε y := (hS.isOpen_compl.eventually_mem hx).and
+      ((continuous_const.dist f_cont).continuousAt.eventually_lt ε_cont.continuousAt (dist_f_f x))
+    have : ∀ᶠ y in 𝓝 x, (y ∉ S ∧ dist (f x) (f y) < ε y) ∧ (f y = 0 → f x = 0) := by
+      by_cases hx' : f x = 0
+      · simpa [hx'] using this
+      · simpa [hx'] using this.and (f_cont.continuousAt.eventually_ne hx')
+    exact ⟨_, this, (fun _ ↦ f x), contMDiffOn_const, fun y hy ↦ ⟨hy.1.2, by simp [hy.1.1], hy.2⟩⟩
+
+theorem Continuous.exists_contMDiff_approx
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]: I'd call this one `Continuous.exists_smooth_approx` because the lemma gives a C^\infty instead of C^n conclusion, but this question also came up in #31326 and the conclusion was not clear, so I'd rather wait for @grunweg here.

Comment (ADedecker) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: That's a good point, is the policy "never use smooth" or just "no smooth specializations of `ContMDiff` lemmas"?

One issue I see with `smooth` is that, when searching for a theorem, one would have to know in advance wether it would be named `smooth` of `contMDiff`, which may be annoying...

Comment (grunweg) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: Let me weigh in then: my understanding is that
- we removed the `Smooth` predicate because it was just duplicating API --- so we usually don't want a smooth specialization of a result for C^n functions. (If some hypotheses simplify/disappear in the smooth case, an exception can be made: I am fine with your PR about bundled C^n functions, for example.)
- if a lemma holds for all n, I'd state it for all n (and use contMDiff in its name)

If a lemma only makes sense assuming a smooth (not C^n) hypothesis (that's probably rare, but presumably exists), indicating this in the name could be fine... though I wonder if it's necessary.

I'm not sure if we want to use `smooth` here: the conclusion also (trivially) holds for any regularity C^n, right? Like Anatole, I worry about discoverability: having to search for a theorem twice would be annoying.
We could have a compromise: use contMDiff in the name, but add an alias with smooth for discoverability.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 16]
```diff
@@ -95,6 +95,13 @@ theorem contDiffAt_const {c : F} : ContDiffAt 𝕜 n (fun _ : E => c) x :=
 theorem contDiffWithinAt_const {c : F} : ContDiffWithinAt 𝕜 n (fun _ : E => c) s x :=
   contDiffAt_const.contDiffWithinAt
 
+@[simp, fun_prop]
+theorem contDiffWithinAt_empty : ContDiffWithinAt 𝕜 m f ∅ x :=
+  contDiffWithinAt_const.congr (fun _ ↦ False.elim) rfl
+
+@[simp, fun_prop]
+theorem contDiffOn_empty : ContDiffOn 𝕜 m f ∅ := fun _ ↦ False.elim
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean]: I believe I got one of these into master this morning: you may have to rebase. Sorry.

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean [hunk 17]
```diff
@@ -209,6 +209,13 @@ theorem contMDiffAt_one [One M'] : ContMDiffAt I I' n (1 : M → M') x :=
 theorem contMDiffWithinAt_const : ContMDiffWithinAt I I' n (fun _ : M => c) s x :=
   contMDiffAt_const.contMDiffWithinAt
 
+@[simp]
+theorem contMDiffWithinAt_empty : ContMDiffWithinAt I I' n f ∅ x :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Basic.lean]: Same, for at least the second one.
Can you also add `mDifferentiableWithinAt_empty`? I believe I forgot that one. Thank you!

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 18]
```diff
@@ -0,0 +1,137 @@
...
+  [NormedAddCommGroup E] [NormedSpace ℝ E] [FiniteDimensional ℝ E]
+  [NormedAddCommGroup F] [NormedSpace ℝ F]
+  [TopologicalSpace H] (I : ModelWithCorners ℝ E H)
+  [TopologicalSpace M] [ChartedSpace H M] [IsManifold I ∞ M] [SigmaCompactSpace M] [T2Space M]
+
+variable {f : M → F} {ε : M → ℝ}
+
+theorem Continuous.exists_contMDiff_approx_and_eqOn (n : ℕ∞)
+    (f_cont : Continuous f) (ε_cont : Continuous ε) (ε_pos : ∀ x, 0 < ε x)
+    {S U : Set M} (hS : IsClosed S) (hU : U ∈ 𝓝ˢ S) (hfU : ContMDiffOn I 𝓘(ℝ, F) n f U) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]: Optional, I'm also happy to do that in one fell swoop: import `Mathlib.Geometry.Manifold.Notation` and write
```suggestion
    {S U : Set M} (hS : IsClosed S) (hU : U ∈ 𝓝ˢ S) (hfU : CMDiff[U] n f) :
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 19]
```diff
@@ -0,0 +1,137 @@
...
+    ∃ g : C^n⟮I, M; 𝓘(ℝ, F), F⟯,
+      (∀ x, dist (g x) (f x) < ε x) ∧ EqOn g f S ∧ support g ⊆ support f := by
+  have dist_f_f : ∀ x, dist (f x) (f x) < ε x := by simpa only [dist_self] using ε_pos
+  let t : M → Set F := fun x ↦ {y | dist y (f x) < ε x ∧ (x ∈ S → y = f x) ∧ (f x = 0 → y = 0)}
+  suffices ∃ g : C^n⟮I, M; 𝓘(ℝ, F), F⟯, ∀ x, g x ∈ t x by
+    rcases this with ⟨g, hg⟩
+    exact ⟨g, fun x ↦ (hg x).1, fun x ↦ (hg x).2.1, fun x ↦ mt (hg x).2.2⟩
+  have t_conv : ∀ x, Convex ℝ (t x) := fun x ↦ (convex_ball (f x) (ε x)).inter <|
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
  have t_conv (x) : Convex ℝ (t x) := (convex_ball (f x) (ε x)).inter <|
```

File: Mathlib/Geometry/Manifold/SmoothApprox.lean [hunk 20]
```diff
@@ -0,0 +1,137 @@
...
+    ∃ g : E → F, ContDiff ℝ n g ∧
+      (∀ x, dist (g x) (f x) < ε x) ∧ EqOn g f S ∧ support g ⊆ support f := by
+  obtain ⟨g, g_approx, g_eqOn, g_supp⟩ := f_cont.exists_contMDiff_approx_and_eqOn 𝓘(ℝ, E) n
+    ε_cont ε_pos hS hU hfU.contMDiffOn
+  exact ⟨g, g.contMDiff.contDiff, g_approx, g_eqOn, g_supp⟩
+
+theorem Continuous.exists_contDiff_approx
+    (f_cont : Continuous f) (ε_cont : Continuous ε) (ε_pos : ∀ x, 0 < ε x) :
+    ∃ g : E → F, ContDiff ℝ ∞ g ∧
+      (∀ x, dist (g x) (f x) < ε x) ∧ support g ⊆ support f := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/SmoothApprox.lean]:
```suggestion
    ∃ g : E → F, ContDiff ℝ ∞ g ∧ (∀ x, dist (g x) (f x) < ε x) ∧ support g ⊆ support f := by
```

**Review by grunweg — COMMENTED** [review]
Thanks! I have only minor comments. I guess the biggest open question is the naming one.

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean [hunk 21]
```diff
@@ -203,6 +203,10 @@ theorem mfderivWithin_const :
     mfderivWithin I I' (fun _ : M => c) s x = (0 : TangentSpace I x →L[𝕜] TangentSpace I' c) :=
   (hasMFDerivWithinAt_const _ _ _).mfderivWithin_eq_zero
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean:205]: Pre-existing, kind of: now `mdifferentiableOn_empty` and this one are in distinct files. It would be nice to move them next to each other... (can be a follow-up PR).

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean [hunk 22]
```diff
@@ -209,6 +209,10 @@ theorem contMDiffAt_one [One M'] : ContMDiffAt I I' n (1 : M → M') x :=
 theorem contMDiffWithinAt_const : ContMDiffWithinAt I I' n (fun _ : M => c) s x :=
   contMDiffAt_const.contMDiffWithinAt
 
+@[simp]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Basic.lean]: Same comment as below about location.

**Comment by grunweg** [comment]
My impression is that we're waiting for Anatole here, to fix the linter error and address the naming.

In this case, we have two intertwined questions:
- Should this theorem be about C^n or only about C^infty functions?
- How should we name the result?

I'd propose we tie the second question to the first one: smooth iff the only applies only to C^infty functions.
That said, I don't think we have much precedent for C^infty-only results in mathlib, right? Is there a reason to do this here? Are C^n bump functions simply never used at all? (Not even in a C^r manifold which is not smooth, say? I am personally not interested in such, but if they are used meaningfully, we should cater to them.)

Should we start a ~~bikeshed~~discussion on zulip? (We can move ahead with this PR already, if waiting is too onerous.)

File: Mathlib/Geometry/Manifold/SmoothApprox.lean (hunk 15 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/SmoothApprox.lean]: I agree with your arguments that `smooth` in lemma names is harder to discover, so let's go for `contMDiff` instead, and use a general smoothness `n` instead of just \infty even when the \infty case trivially implies the general case.

**Comment by ADedecker** [comment]
Sorry, I didn't have Lean time this weekend. I've decided to move the "differentiability within the empty set" stuff to #31582 (draft for now), so I'll remove them from here.

I'll move to `contMDiff` and allow any `n`. For now this doesn't change the hypotheses, but presumably if we generalize [exists_contMDiffOn_forall_mem_convex_of_local](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/PartitionOfUnity.html#exists_contMDiffOn_forall_mem_convex_of_local) to allow for `C^n` manifolds we could get a (mildly) better condition as well.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 23]
```diff
@@ -95,6 +95,10 @@ theorem contDiffAt_const {c : F} : ContDiffAt 𝕜 n (fun _ : E => c) x :=
 theorem contDiffWithinAt_const {c : F} : ContDiffWithinAt 𝕜 n (fun _ : E => c) s x :=
   contDiffAt_const.contDiffWithinAt
 
+@[simp, fun_prop]
+theorem contDiffWithinAt_empty : ContDiffWithinAt 𝕜 m f ∅ x :=
+  contDiffWithinAt_const.congr (fun _ ↦ False.elim) rfl
+
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDeriv/Const.lean [hunk 24]
```diff
@@ -179,6 +179,10 @@ theorem differentiableWithinAt_intCast [IntCast F] (z : ℤ) :
 theorem differentiableWithinAt_ofNat (n : ℕ) [OfNat F n] :
     DifferentiableWithinAt 𝕜 (ofNat(n) : E → F) s x := differentiableWithinAt_const _
 
+@[simp, fun_prop]
+theorem differentiableWithinAt_empty : DifferentiableWithinAt 𝕜 f ∅ x :=
+  (differentiableWithinAt_const (f x)).congr (fun _ ↦ False.elim) rfl
+
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/FDeriv/Const.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean [hunk 25]
```diff
@@ -203,6 +203,10 @@ theorem mfderivWithin_const :
...
 
+@[simp]
+theorem mdifferentiableWithinAt_empty {f : M → M'} : MDifferentiableWithinAt I I' f ∅ x :=
+  mdifferentiableWithinAt_const.congr (fun _ ↦ False.elim) rfl
+
```
Comment (ADedecker) [inline Mathlib/Geometry/Manifold/MFDeriv/SpecificFunctions.lean]:
```suggestion
```

File: Mathlib/Geometry/Manifold/ContMDiff/Basic.lean [hunk 26]
```diff
@@ -209,6 +209,10 @@ theorem contMDiffAt_one [One M'] : ContMDiffAt I I' n (1 : M → M') x :=
...
+theorem contMDiffWithinAt_empty : ContMDiffWithinAt I I' n f ∅ x :=
+  contMDiffWithinAt_const.congr (fun _ ↦ False.elim) rfl
+
```
Comment (ADedecker) [inline Mathlib/Geometry/Manifold/ContMDiff/Basic.lean]:
```suggestion
```
